US07534791B2
Synthesis of 5-methyl-2-triisopropylsilanylsulfanyl-benzoic acid methyl ester (Method 15.)
2-Bromo-5-methyl-benzoic acid methyl ester (2.06 g, 9.00 mmol), tris(dibenzylideneacetone)dipalladium (0) (83 mg, 0.09 mmol), bis(2-diphenylphosphinophenyl)ether (97 mg, 0.18 mmol), sodium tert-butoxide (1.00 g, 10.4 mmol), triisopropylsilanethiol (1.37g, 7.2 mmol) and dry toluene (10 mL) are all placed in an Emrys Optimizer EXP 20 mL microwave reactor tube. The reaction vessel is sealed and subjected to microwave heating at 150° C. for 30 minutes. Upon cooling the mixture is poured onto a plug of silica and the product is eluted with ethyl acetate-heptane (2:8). This furnishes the title compound as an oil, which is used in the next step without further purification.

reactant | 2-Bromo-5-methyl-benzoic acid methyl ester | 9.00 mmol, 2.06 g | COC(C1=C(C=CC(=C1)C)Br)=O | C9H9BrO2
reactant | bis(2-diphenylphosphinophenyl)ether | 0.18 mmol, 97 mg | C1(=CC=CC=C1)P(C1=C(C=CC=C1)OC1=C(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C36H28OP2
reactant | sodium tert-butoxide | 10.4 mmol, 1.00 g | CC(C)([O-])C.[Na+]
reactant | triisopropylsilanethiol | 7.2 mmol, 1.37g | C(C)(C)[Si](S)(C(C)C)C(C)C | C9H22SSi
catalyst | tris(dibenzylideneacetone)dipalladium | 0.09 mmol, 83 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 5-methyl-2-triisopropylsilanylsulfanyl-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)C)S[Si](C(C)C)(C(C)C)C(C)C)=O | C18H30O2SSi
